US07595327B2
A solution of 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (0.6 g, 1.03 mmol) and lithium hydroxide (0.148 g, 6.18 mmol) in THF:methanol:water (3:2:2 mL) was stirred at 25° C. for 19 h. The solution was then concentrated in vacuo to provide 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester as a crude solid (0.55 g, 96%). MS: 556 (M+H)+.

reactant | 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 1.03 mmol, 0.6 g | C(C)OC(=O)C1C(CN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C30H37N3O7S
reactant | lithium hydroxide | 6.18 mmol, 0.148 g | [OH-].[Li+]
solvent | THF methanol water | 2 mL | C1CCOC1.CO.O
product | 3-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C28H33N3O7S
